US08084644B2
Sodium salt of thiophenol (0.14 g) was added to ethanol (5 ml) solution of N-benzyloxy-3-phenylthioacrylimidoyl bromide (0.30 g) at room temperature, then it was heat refluxing for three hours. It was cooled, and chloroform (50 ml) was added to the reaction mixture. It was successively washed with 1N aqueous sodium hydroxide solution, pure water, aqueous saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain phenyl N-benzyloxy-3-(phenylthio)thioacrylimidate (0.14 g) as colorless oil.

reactant | Sodium | [Na] | Na
reactant | thiophenol | 0.14 g | C1(=CC=CC=C1)S | C6H6S
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | N-benzyloxy-3-phenylthioacrylimidoyl bromide | 0.30 g | C(C1=CC=CC=C1)ON=C(C=CSC1=CC=CC=C1)Br | C16H14BrNOS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | phenyl N-benzyloxy-3-(phenylthio)thioacrylimidate | 0.14 g | C(C1=CC=CC=C1)ON=C(C=CSC1=CC=CC=C1)SC1=CC=CC=C1 | C22H19NOS2
